US08034945B2
(c). 3-Bromo-5-formyl-2-(3-nitro-benzyloxy)-benzoic acid methyl ester
A mixture of 3-bromo-5-formyl-2-hydroxy-benzoic acid methyl ester (518 mg), potassium carbonate (613 mg), tetrabutylammonium iodide (68 mg) and 3-nitrobenzyl bromide (525 mg) in DMF (10 ml) was heated at 60° C. for 5 h. The mixture was diluted with water and extracted with ethyl acetate. The organic layer was dried (MgSO4), filtered and concentrated in vacuo.

reactant | 3-bromo-5-formyl-2-hydroxy-benzoic acid methyl ester | 518 mg | COC(C1=C(C(=CC(=C1)C=O)Br)O)=O | C9H7BrO4
reactant | potassium carbonate | 613 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 3-nitrobenzyl bromide | 525 mg | [N+](=O)([O-])C=1C=C(CBr)C=CC1 | C7H6BrNO2
catalyst | tetrabutylammonium iodide | 68 mg | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 3-Bromo-5-formyl-2-(3-nitro-benzyloxy)-benzoic acid methyl ester | COC(C1=C(C(=CC(=C1)C=O)Br)OCC1=CC(=CC=C1)[N+](=O)[O-])=O | C16H12BrNO6
